US08003785B2
To a mixture of 0.075 g (0.16 mmole) of 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-2-fluoro-5-methoxy-benzoic acid (I-169), 0.09 g (0.24 mmole) of 1-[bis(dimethylamino)methylene]-1H-benzotriazolium-3-oxide hexafluorophosphate and 2 mL of dimethylformamide was added 0.08 mL (0.48 mmole) of diisopropylethylamine. After stirring at room temperature for 30 minutes 0.10 g (0.48 mmole) of 4-amino-1-Boc-piperidine was added. The mixture was stirred at room temperature for 18 hours, then diluted with ethyl acetate and water. The aqueous phase was extracted twice with ethyl acetate. The combined organic layers were washed with 1M sodium hydroxide solution then brine, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue was purified by silica gel chromatography eluting with ethyl acetate to give 0.071 g of 4-[4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-2-fluoro-5-methoxy-benzoyl-amino]-piperidin-1-carboxylic acid tert-butyl ester (I-177).

reactant | 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-2-fluoro-5-methoxy-benzoic acid | 0.16 mmole, 0.075 g | C1(CCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=CC(=C(C(=O)O)C=C2OC)F | C21H22F3N5O4
reactant | 1-[bis(dimethylamino)methylene]-1H-benzotriazolium-3-oxide hexafluorophosphate | 0.24 mmole, 0.09 g | F[P-](F)(F)(F)(F)F.CN(C)C(=[N+]1N=[N+](C2=C1C=CC=C2)[O-])N(C)C
reactant | diisopropylethylamine | 0.48 mmole, 0.08 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-amino-1-Boc-piperidine | 0.48 mmole, 0.10 g | NC1CCN(CC1)C(=O)OC(C)(C)C | C10H20N2O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | 4-[4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-2-fluoro-5-methoxy-benzoyl-amino]-piperidin-1-carboxylic acid tert-butyl ester | 0.071 g | C(C)(C)(C)OC(=O)N1CCC(CC1)NC(C1=C(C=C(C(=C1)OC)NC=1N=CC2=C(N(CC(C(N2C)=O)(F)F)C2CCCC2)N1)F)=O | C31H40F3N7O5
